US05541032
Preparation of 4-isopropylphenacylpyridinium chloride
The title compound was prepared similarly to Example 1 from 4-isopropylphenacyl chloride and pyridine in a yield of 93%.

reactant | 4-isopropylphenacyl chloride | C(C)(C)C1=CC=C(C(CCl)=O)C=C1 | C11H13ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-isopropylphenacylpyridinium chloride | yield of 93% | [Cl-].C(C)(C)C1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C16H18NO.ClH/c1-13(2)14-6-8-15(9-7-14)16(18)12-17-10-4-3-5-11-17;/h3-11,13H,12H2,1-2H3;1H/q+1;/p-1
